US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (42.3 mg, 0.10 mmol), terephthalic acid (33.2 mg, 0.20 mmol), HATU (72.0 mg, 0.20 mmol) and iPr2NEt (0.1 mL) in CH2Cl2 (2 mL) was stirred at rt 2 hrs. The mixture was then diluted with CH2Cl2 and washed with water, brine. The organic phase was separated, filtered and dried over Na2SO4. The mixture was then concentrated and the residue was purified by RP-HPLC to give rac-4-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-benzoic acid (21.5 mg, 37.6%). HRMS (ES+) m/z Calcd for C30H26Cl2F2N2O3+H [(M+H): 571.1362; Found: 571.1363.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.10 mmol, 42.3 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | terephthalic acid | 0.20 mmol, 33.2 mg | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | HATU | 0.20 mmol, 72.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | rac-4-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-benzoic acid | 21.5 mg, 37.6% | ClC=1C(=C(C=CC1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)C1=CC=C(C(=O)O)C=C1)F | C30H26Cl2F2N2O3
